US06121271
Acetic acid 2-cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester
To 2-cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol (2.8 g, 7.5 mmol) in anhydrous pyridine (20 mL) at room temperature under nitrogen was added dropwise acetic anhydride (0.92 mL, 9.8 mmol). The reaction mixture was placed in the refrigerator. After 41 h the reaction was diluted and acidified with 10% aqueous hydrochloric acid to a pH of 1. The mixture was extracted with diethyl ether (500 mL), and the diethyl ether layer was washed with 5% aqueous hydrochloric acid (100 mL), twice with water (100 mL), brine (100 mL), and then dried (MgSO4). Concentration under reduced pressure gave the title compound as a white solid (3.1 g, 98%): (DMSO-d6) δ 8.48 (s, 1 H), 7.97 (d, 1 H), 7.47-7.43 (m, 1 H), 7.38-7.36 (m, 2 H), 7.28 (s, 1 H), 7.19 (d, 2 H), 3.14 (quintet, 1 H), 2.40 (s, 3 H), 2.37 (s, 3 H), 1.99-1.91 (m, 2 H), 1.69-1.40 (m, 6 H), 1.56 (s, 3 H). MS(EI), [M+] 414. Anal. Calc. for C27H26O2S: C, 78.23, H, 6.32, N, 0.00. Found: C, 77.68, H, 6.39, N, 0.04.

reactant | 2-cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenol | 7.5 mmol, 2.8 g | C1(CCCC1)C1=C(C=CC(=C1)C1=C2C=CC=CC2=CC=2SC(=C(C21)C)C)O | C25H24OS
reactant | acetic anhydride | 9.8 mmol, 0.92 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | Acetic acid 2-cyclopentyl-4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-phenyl ester | 3.1 g, 98% | C1(CCCC1)C1=C(C=CC(=C1)C1=C2C=CC=CC2=CC=2SC(=C(C21)C)C)OC(C)=O | C27H26O2S
